US06818642B2
A3. (4-Benzyloxy-3-methoxybenzyl)(5-chloro-2,6-dimethylpyrimidin-4-yl)amine
In analogy to the method described in example A1, 3.67 g (22.8 mmol) of 4-amino-5-chloro-2,6-dimethylpyrimidine, 6.0 g (22.8 mmol) of 4-benzyloxy-3-methoxybenzyl chloride and 0.91 g (23 mmol) of sodium hydride (60% suspension in liquid paraffin) are reacted in a total of 190 ml of N-methylpyrrolidone. After chromatography on silica gel (mobile phase: toluene/dioxane=10:1) and crystallization from petroleum ether, the title compound is isolated as a pale beige solid. Yield: 3.42 g (39% of theory). m.p.: 101-105° C.

reactant | 4-amino-5-chloro-2,6-dimethylpyrimidine | 22.8 mmol, 3.67 g | NC1=NC(=NC(=C1Cl)C)C | C6H8ClN3
reactant | 4-benzyloxy-3-methoxybenzyl chloride | 22.8 mmol, 6.0 g | C(C1=CC=CC=C1)OC1=C(C=C(CCl)C=C1)OC | C15H15ClO2
reactant | sodium hydride | 23 mmol, 0.91 g | [H-].[Na+]
solvent | N-methylpyrrolidone | 190 ml | CN1C(CCC1)=O | C5H9NO
product | (4-Benzyloxy-3-methoxybenzyl)(5-chloro-2,6-dimethylpyrimidin-4-yl)amine | C(C1=CC=CC=C1)OC1=C(C=C(CNC2=NC(=NC(=C2Cl)C)C)C=C1)OC | C21H22ClN3O2
